US04997954
Under an atmosphere of nitrogen, a suspension of 4-(2'-bromoethyl)-1,3-dihydro-2H-indol-2-one (245 mg, 102 mmol) was prepared by the addition of di-n-propylamine (1.00 g, 10 mmol, 1.35 ml) which has previously been degassed with a stream of nitrogen. After stirring for 30 minutes, degassed acetonitrile (5 ml) was added to give a pale yellow solution. After an additional hour the solution was heated, and maintained at reflux for 5 hours. After cooling to ambient temperature, the solution was poured into IN hydrochloric acid (35 ml) and extracted with ether (50 ml). The aqueous layer was made neutral to pH 7-7.5 with solid sodium bicarbonate and extracted with dichloromethane (50 ml). After drying separately, the ether layer was evaporated to give 4-vinyl-indol-2-one (60 mg, 37.7%) Evaporation of the dichloromethane layer gave 4-[2-(dipropylamino)ethyl]-1.3-dihydro-2H-indol-2-one (155 mg. 58.5%) as free-base which was then taken up in absolute ethanol (5 ml) and saturated with gaseous hydrogen chloride. The solvent was removed in vaccuo to give the crude hydrochloride salt (170 mg) as a light yellow solid. Recrystallisation from absolute ethanol (2 ml) gave light yellow crystals (110 mg 63% from the free-base) of 4-[2-(dipropylamino)ethyl]-1,3- dihydro-2H-indol-2-one hydrochloride m.p. 242-244° C.

reactant | 4-(2'-bromoethyl)-1,3-dihydro-2H-indol-2-one | 102 mmol, 245 mg | BrCCC1=C2CC(NC2=CC=C1)=O | C10H10BrNO
reactant | di-n-propylamine | 10 mmol, 1.35 ml, 1.00 g | C(CC)NCCC | C6H15N
solvent | hydrochloric acid | 35 ml | Cl | ClH
product | 4-[2-(dipropylamino)ethyl]-1.3-dihydro-2H-indol-2-one | 155 mg, 58.5% | C(CC)N(CCC1=C2CC(NC2=CC=C1)=O)CCC | C16H24N2O
